US08017611B2
Bromine (0.715 ml) was added dropwise to tert-butyl 4-(3-methoxyphenyl)piperazine-1-carboxylate (3.4 g) dissolved in cold acetic acid (25 ml) under argon. The resulting solution was stirred at room temperature for 90 minutes. The reaction mixture was concentrated to dryness and diluted with ethyl acetate, dichloromethane and a saturated aqueous solution of sodium bicarbonate. The phases were stirred, separated and the organic phase was dried over magnesium sulfate and concentrated in the presence of silica gel. The crude product was purified by flash chromatography on silica gel eluting with 10 to 20% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-(4-bromo-3-methoxy-phenyl)piperazine-1-carboxylate (1.770 g, 41.0%). NMR Spectrum: (CDCl3) 1.48 (s, 9H), 3.08-3.17 (m, 4H), 3.54-3.62 (m, 4H), 3.88 (s, 3H), 6.40 (dd, 1H), 6.47 (d, 1H), 7.37 (d, 1H)

reactant | Bromine | 0.715 ml | BrBr | Br2
reactant | tert-butyl 4-(3-methoxyphenyl)piperazine-1-carboxylate | 3.4 g | COC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 4-(4-bromo-3-methoxy-phenyl)piperazine-1-carboxylate | 1.770 g, 41.0% | BrC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)OC | C16H23BrN2O3
